US07781428B2
Step 1: Preparation of methyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate
Methyl 6-(cyclopentylmethylene)-5-oxo-5,6,7,8-tetrahydronaphthalene-2-carboxylate (Preparation 18, 2.8 g, 9.9 mmol) was suspended in ethanol (100 mL) and 2-chloro-4-hydrazinylbenzonitrile hydrochloride (Preparation 1, 2.6 g, 12.8 mmol) was added. The solution was heated to 80° C. for eight hours. The solution was returned to ambient temperature. The resulting solid was collected by vacuum filtration and washed with cold ethanol to provide the title compound largely present as (±)-(3SR,3aRS)-methyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate (3.75 g, 87% yield). LC/MS on 4.6×50 mm C-18 column, tR=7.45 minutes (10 to 90% acetonitrile/water over 8 minutes at 2 mL/minute with detection 254 nm, at 50° C.); ES-MS m/z 434 (M+H); 1H NMR (400 MHz, DMSO-d6) δ ppm 1.06-1.54 (m, 6H), 1.62-1.74 (m, 1H), 1.73-1.87 (m, 1H), 1.99-2.09 (m, 1H), 2.21 (dd, J=7.79, 2.15 Hz, 1H), 2.82-2.94 (m, 2H), 3.09 (d, J=16.92 Hz, 1H), 3.54-3.66 (m, 1H), 3.84 (s, 3H), 4.95 (dd, J=9.67, 5.64 Hz, 1H), 7.19 (dd, J=9.26, 1.75 Hz, 1H), 7.39 (d, J=2.15 Hz, 1H), 7.67 (d, J=8.86 Hz, 1H), 7.82 (d, J=8.32 Hz, 1H), 7.86 (s, 1H), 8.10 (d, J=8.06 Hz, 1H).

reactant | Methyl 6-(cyclopentylmethylene)-5-oxo-5,6,7,8-tetrahydronaphthalene-2-carboxylate | 9.9 mmol, 2.8 g | C1(CCCC1)C=C1C(C=2C=CC(=CC2CC1)C(=O)OC)=O | C18H20O3
reactant | 2-chloro-4-hydrazinylbenzonitrile hydrochloride | 12.8 mmol, 2.6 g | Cl.ClC1=C(C#N)C=CC(=C1)NN
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | (±)-(3SR,3aRS)-methyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate | 3.75 g, 87% yield | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)OC | C25H24ClN3O2
